US07351719B2
146) ethyl 1-(2-{2-chloro-4-[2-(2-chloro-4-trifluoromethyl-phenoxy)-acetylamino]-phenoxy}-ethyl)-piperidine4-carboxylate
Prepared analogously to Example 145 starting from N-[4-(2-bromo-ethoxy)-3-chloro-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide (Z28b) and ethyl piperidine-4-carboxylate.

reactant | N-[4-(2-bromo-ethoxy)-3-chloro-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | BrCCOC1=C(C=C(C=C1)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O)Cl | C17H13BrCl2F3NO3
reactant | ethyl piperidine-4-carboxylate | N1CCC(CC1)C(=O)OCC | C8H15NO2
product | ethyl 1-(2-{2-chloro-4-[2-(2-chloro-4-trifluoromethyl-phenoxy)-acetylamino]-phenoxy}-ethyl)-piperidine4-carboxylate | ClC1=C(OCCN2CCC(CC2)C(=O)OCC)C=CC(=C1)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C25H27Cl2F3N2O5
